data/oMe_Silver.jsonl
{"reaction_id": "NR-231_1-c1ccccc1_2-CC(C)C","level": "medium","name": "Seyferth-Gilbert Homologation","reactants_smiles": ["C(=O)(c1ccccc1)([H])","CC(C)COP(=O)(OCC(C)C)C=[N+]=[N-]"],"products_smiles": ["C#[C]c1ccccc1"],"conditions": "[O-]C(C)(C)C","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)COP(=O)(OCC(C)C)[C-]=[N+]=[N-]","step_weight": 0,"rationale": "Strong base deprotonates the acidic methylene adjacent to the phosphonate, stabilized by resonance with the electron-withdrawing phosphonate and diazo group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COP(=O)(OCC(C)C)C(=[N+]=[N-])C([O-])(c1ccccc1)([H])","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic aldehyde carbon, driven by the strong polarization of the C=O bond and stabilization of the alkoxide intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COP1([O-])(OCC(C)C)C(=[N+]=[N-])C(O1)(c1ccccc1)([H])","step_weight": 0,"rationale": "Intramolecular cyclization occurs as the alkoxide attacks the electrophilic phosphorus, favored by proximity and relief of negative charge through P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C=[N+]=[N-])(c1ccccc1)([H])","step_weight": 0,"rationale": "Elimination of the phosphonate leaving group is promoted by its resonance stabilization and the driving force of forming a conjugated diazoalkene."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(c1ccccc1)([H])","step_weight": 0,"rationale": "Loss of nitrogen gas from the diazo group is highly favorable due to the extreme stability of N₂, generating a reactive carbene or alkyne precursor."},{"step": 6,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C#[C]c1ccccc1","step_weight": 0,"rationale": "A 1,2-shift rearranges substituents to form the thermodynamically stable terminal alkyne, driven by formation of a strong C≡C bond."}],"description": "Under basic conditions, the Seyferth–Gilbert homologation converts aldehydes to terminal alkynes via deprotonation of the phosphonate reagent, nucleophilic addition to the carbonyl, cyclization, and sequential eliminations, followed by a rearrangement that forms the C≡C bond. The base promotes anionic intermediates and facilitates leaving group departure."}
{"reaction_id": "NG-004_1-c1ccccc1_2-C_3-C1C2CC3CC1CC(C2)C3","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccccc1)C=O","C(C)(C1C2CC3CC1CC(C2)C3)=O"],"products_smiles": ["C(C)(C1C2CC3CC1CC(C2)C3)=C(C=O)c1ccccc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C1C2CC3CC1CC(C2)C3)([O-])C(C=O)c1ccccc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of C, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C1C2CC3CC1CC(C2)C3)(O)C(C=O)c1ccccc1","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C1C2CC3CC1CC(C2)C3)(O)C=C([O-])c1ccccc1","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C1C2CC3CC1CC(C2)C3)=C(C=O)c1ccccc1","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
